US05886214
Catalytic Asymmetric Hydrogenation of non-1-en-2-yl Acetate
This reaction was performed as in Example 1 with bis(cyclooctadienyl)rhodium tetrafluoroborate (10 mg; 0.025 mmol; 0.01 equiv), R,R-1,2-bis(2,5-dimethylphospholano)benzene (6, R"=CH3 ; 9 mg; 0.03 mmol; 0.012 equiv) and non-1-en-2-yl acetate (461 mg; 2.5 mmol) in 10 mL of degassed THF until hydrogen uptake ceased (2 h) to afford 0.46 g of crude product. 1H NMR analysis indicated 2-nonyl acetate as the sole product, and chiral GC analysis and comparison to racemate indicated 64.0% ee for 2-nonyl acetate. Hydrolysis of the acetate to 2-nonanol and comparison of the optical rotation, [α]D24 -13.9° (c 1.15, benzene), with the literature value for the (S) enantiomer, [α]D18 +11.4° (c 1.30, benzene) (Mori, K.; Ogita, H. Leibigs Ann. Chem. 1994, 1065.), indicated the (R) configuration for 2-nonyl acetate.

reactant | 2-nonyl acetate | C(C)(=O)OC(C)CCCCCCC | C11H22O2
reactant | acetate | C(C)(=O)[O-]
reactant | 2-nonanol | CC(CCCCCCC)O | C9H20O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | non-1-en-2-yl Acetate | C(C)(=O)OC(=C)CCCCCCC | C11H20O2
